US07572809B2
c) Preparation of Methanesulfonic acid 3-(1-methanesulfonyl-5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-ylmethyl ester
MsCl (1.0 g) in 20 mL CH2Cl2 was added slowly to a mixture of [6-Methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-methanol (11.0 g) and Et3N (1.42 g) in 50 mL CH2Cl2 at 0° C. The reaction mixture was stirred at r.t. for 3 h, and then washed with saturated NaHCO3 (aq) and NaCl(aq). The organic layer was dried over Na2SO4, and concentrated to give the crude product.

reactant | MsCl | 1.0 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | [6-Methoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-yl]-methanol | 11.0 g | COC=1C=C2C=C(N=C(C2=CC1)CO)NC1=NNC(=C1)C | C15H16N4O2
reactant | Et3N | 1.42 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-(1-methanesulfonyl-5-methyl-1H-pyrazol-3-ylamino)-6-methoxy-isoquinolin-1-ylmethyl ester | CS(=O)(=O)N1N=C(C=C1C)NC=1N=C(C2=CC=C(C=C2C1)OC)COS(=O)(=O)C | C17H20N4O6S2
